US07034166B2
Preparation of 2-methyl-1-(4-methylphenyl)-2-(2,3,5-trimethylphenoxy)-1-propanol
A solution of sodium borohydride (25.7 g) in 0.1N NaOH (202 mL) was added dropwise to a suspension of 2-methyl-1-(4-methylphenyl)-2-(2,3,5-trimethylphenoxy)-1-propanone (251.9 g) in methanol (2519 mL). The mixture was stirred at 35° C. for 3 hours. After the mixture was adjusted to pH 7 by addition of 1N HCl under ice-cooling, methanol was distilled off, followed by extraction with toluene (2015 mL). The extract was washed with water, and the solvent was distilled off to quantitatively obtain the title compound as an oil (253.7 g).

reactant | sodium borohydride | 25.7 g | [BH4-].[Na+]
reactant | 2-methyl-1-(4-methylphenyl)-2-(2,3,5-trimethylphenoxy)-1-propanone | 251.9 g | CC(C(=O)C1=CC=C(C=C1)C)(C)OC1=C(C(=CC(=C1)C)C)C | C20H24O2
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 0.1N, 202 mL | [OH-].[Na+]
solvent | methanol | 2519 mL | CO | CH4O
product | 2-methyl-1-(4-methylphenyl)-2-(2,3,5-trimethylphenoxy)-1-propanol | 253.7 g | CC(C(O)C1=CC=C(C=C1)C)(C)OC1=C(C(=CC(=C1)C)C)C | C20H26O2
